US07763657B2
Step 2: 3-[4-tert-Butyl-2-(2-piperidine-1-yl-ethoxy)phenyl]-N-(3-fluoro-4-methanesulfonylamino-5-vinylbenzyl)acrylamide
3-[4-tert-Butyl-2-(2-piperidin-1-yl-ethoxy)phenylacrylic acid (0.039 mmol, 1 eq.), diethylcyanophosphine 7.1 μl (0.0.047 mmol, 1.2 eq), N-(4-aminomethyl-2-fluoro-6-vinylphenyl)-methanesulfonamide 16.8 mg (0.047 mmol, 1.2 eq.), and triethylamine 16.3 μl (0.117 mmol, 3 eq) were added in DMF. The mixture was stirred overnight at room temperature. The reaction mixture was purified according to Example 25 to give solid (32.6 mg, 100%).

reactant | 4-tert-Butyl-2-(2-piperidin-1-yl-ethoxy)phenylacrylic acid | 0.039 mmol, 1 eq. | C(C)(C)(C)C1=CC(=C(C=C1)C(C(=O)O)=C)OCCN1CCCCC1 | C20H29NO3
reactant | diethylcyanophosphine | 7.1 μl, 1.2 eq | C(C)P(C#N)CC | C5H10NP
reactant | N-(4-aminomethyl-2-fluoro-6-vinylphenyl)-methanesulfonamide | 0.047 mmol, 16.8 mg, 1.2 eq. | NCC1=CC(=C(C(=C1)C=C)NS(=O)(=O)C)F | C10H13FN2O2S
reactant | triethylamine | 0.117 mmol, 16.3 μl, 3 eq | C(C)N(CC)CC | C6H15N
reactant | DMF | CN(C)C=O | C3H7NO
product | 3-[4-tert-Butyl-2-(2-piperidine-1-yl-ethoxy)phenyl]-N-(3-fluoro-4-methanesulfonylamino-5-vinylbenzyl)acrylamide | 32.6 mg, 100% | C(C)(C)(C)C1=CC(=C(C=C1)C=CC(=O)NCC1=CC(=C(C(=C1)C=C)NS(=O)(=O)C)F)OCCN1CCCCC1 | C30H40FN3O4S
